US04780466
8-[3-[4-(2-Pyrimidinyl)-1-piperazinyl]propyloxy]-8-azaspiro-[4.5]decan-7,9-dione hydrochloride hemihydrate
To a mixture of 8-(3-bromopropyloxy)-8-azaspiro[4.5]decan-7,9-dione (4.0 g) and 1-(2-pyrimidinyl)piperazine dihydrochloride (3.13 g) in 100 ml of dry CH3CN were added K2CO3 (52.9 mmol) and NaI (200 mg). The mixture was heated to 80° with stirring under N2.

reactant | 8-(3-bromopropyloxy)-8-azaspiro[4.5]decan-7,9-dione | 4.0 g | BrCCCON1C(CC2(CCCC2)CC1=O)=O | C12H18BrNO3
reactant | 1-(2-pyrimidinyl)piperazine dihydrochloride | 3.13 g | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | K2CO3 | 52.9 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 200 mg | [Na+].[I-]
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 8-[3-[4-(2-Pyrimidinyl)-1-piperazinyl]propyloxy]-8-azaspiro-[4.5]decan-7,9-dione hydrochloride hemihydrate | O.Cl.N1=C(N=CC=C1)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1=O)=O.N1=C(N=CC=C1)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1=O)=O.Cl | InChI=1S/2C20H29N5O3.2ClH.H2O/c2*26-17-15-20(5-1-2-6-20)16-18(27)25(17)28-14-4-9-23-10-12-24(13-11-23)19-21-7-3-8-22-19;;;/h2*3,7-8H,1-2,4-6,9-16H2;2*1H;1H2
